US09023879B2
A solution of 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-4-oxo-2-thioxoimidazolidin-1-yl)-2-fluorobenzoic acid (50 mg, 0.11 mmol) in thionyl chloride (0.5 mL, 67.7 mmol) was stirred at 90 deg C. for 15 h. The reaction mixture was concentrated under reduced pressure to dryness. Ice-water (20 mL) was added into the residue and the product was extracted with ethyl acetate (60 mL). The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to afford crude product, which was purified by reverse phase HPLC to yield 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)-2-fluorobenzoic acid. 1H NMR DMSO-d6 (FREE BASE): δ (ppm) 8.39 (d, 1H), 8.25 (s, 1H), 8.1 (d, 1H), 8.0 (t, 1H), 7.45 (d, 1H), 7.4 (d, 1H), 1.58 (s, 6H).

reactant | 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-4-oxo-2-thioxoimidazolidin-1-yl)-2-fluorobenzoic acid | 0.11 mmol, 50 mg | C(#N)C1=C(C=C(C=C1)N1C(N(C(C1=O)(C)C)C1=CC(=C(C(=O)O)C=C1)F)=S)C(F)(F)F | C20H13F4N3O3S
reactant | thionyl chloride | 67.7 mmol, 0.5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)-2-fluorobenzoic acid | C(#N)C1=C(C=C(C=C1)N1C(N(C(C1=O)(C)C)C1=CC(=C(C(=O)O)C=C1)F)=O)C(F)(F)F | C20H13F4N3O4
